US07531532B2
Benzyl N-(2-fluoro-4-{6-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyrimidin-4-yloxy}phenyl)carbamate
After adding a solution of 1-methyl-4-methylaminopiperidine (0.355 ml) in N,N-dimethylformamide (2.5 ml) to crude phenyl N-[6-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyrimidin-4-yl]-N-(phenoxycarbonyl)carbamate (358 mg) at room temperature, the mixture was stirred for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The separated organic layer was washed with 1N aqueous sodium hydroxide and brine in that order and then dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=95:5) to provide the title compound (189.4 mg) as white powder.

reactant | 1-methyl-4-methylaminopiperidine | 0.355 ml | CN1CCC(CC1)NC | C7H16N2
reactant | phenyl N-[6-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyrimidin-4-yl]-N-(phenoxycarbonyl)carbamate | 358 mg | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=N2)N(C(OC2=CC=CC=C2)=O)C(=O)OC2=CC=CC=C2)C=C1)F | C32H23FN4O7
reactant | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | Benzyl N-(2-fluoro-4-{6-[3-methyl-3-(1-methylpiperidin-4-yl)ureido]pyrimidin-4-yloxy}phenyl)carbamate | 189.4 mg | FC1=C(C=CC(=C1)OC1=NC=NC(=C1)NC(=O)N(C1CCN(CC1)C)C)NC(OCC1=CC=CC=C1)=O | C26H29FN6O4
